US04388475
Step A: Preparation of N-BOC allylamine (2.I)
A mixture of 3.00 ml of allylamine, 30 ml of CH2Cl2, 5.85 ml of triethylamine and 5.81 ml of BOC-azide is prepared at 0° C. and stirred at 25° C. for 16.5 hours while protected from moisture. It is then treated with 2 ml of water for 20 minutes, evaporated, treated with ethyl acetate, extracted successively with water, aqueous pH 2 phosphate buffer, water, aqueous K2HPO4 and brine, dried with MgSO4, filtered and evaporated to afford 5.54 g of product, m.p. 37° C.

reactant | allylamine | 3.00 ml | C(C=C)N | C3H7N
reactant | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 5.85 ml | C(C)N(CC)CC | C6H15N
reactant | BOC-azide | 5.81 ml | C(=O)(OC(C)(C)C)N=[N+]=[N-] | C5H9N3O2
solvent | water | 2 ml | O | H2O
product | N-BOC allylamine | 5.54 g | C(=O)(OC(C)(C)C)C=CCN | C8H15NO2
